US05395969
A mixture of ethyl iodide (0.1M), 1-phenylaminonaphthalene (0.05M), KOH (0.1M) and copper bronze (1 g) was stirred for 31/2 hours in N-methylpyrrolidone (20 cm3) at 120° C. under an atmosphere of nitrogen. The mixture was cooled, poured into water (2 liters) and extracted with CH2Cl2 (3×300 cm3). The combined extracts were washed with water, dried over MgSO4 and the CH2Cl2 solvent removed in vacuo to give 229 g (98% yield) of 1-(N-phenyl-N-ethylamino)naphthalene as a yellow liquid.

reactant | ethyl iodide | 0.1M | C(C)I | C2H5I
reactant | 1-phenylaminonaphthalene | 0.05M | C1(=CC=CC=C1)NC1=CC=CC2=CC=CC=C12 | C16H13N
reactant | KOH | 0.1M | [OH-].[K+]
reactant | water | 2 liters | O | H2O
solvent | N-methylpyrrolidone | 20 cm3 | CN1C(CCC1)=O | C5H9NO
catalyst | copper bronze | 1 g | [Cu] | Cu
product | 1-(N-phenyl-N-ethylamino)naphthalene | 229 g, 98% yield | C1(=CC=CC=C1)N(CC)C1=CC=CC2=CC=CC=C12 | C18H17N
